US04478741
A mixture of 10 g of the resultant 4-hexanoyloxybenzoic acid, 8 g thionyl chloride and 100 ml toluene was stirred and externally heated to be refluxed for three hours. After distilling off the toluene from the mixture, the residue was distilled under reduced pressure to give 8.8 g 4-hexanoyloxybenzoic acid chloride in 82% yield based upon the amount of the 4-hexanoyloxybenzoic acid.

reactant | 4-hexanoyloxybenzoic acid | 10 g | C(CCCCC)(=O)OC1=CC=C(C(=O)O)C=C1 | C13H16O4
reactant | thionyl chloride | 8 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hexanoyloxybenzoic acid chloride | 8.8 g, 82% yield | C(CCCCC)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C13H15ClO3
